US08383644B2
(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile
3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile (13.0 g) was dissolved in 130 mL of anhydrous NMP:diglyme (1:9) solution under nitrogen and heated to 150° C. A suspension of sodium hydride (1.2 g of 60% NaH in mineral oil) in 26 mL of anhydrous NMP:diglyme (1:9) was added all at once via cannula while stirring. After 15 minutes, the reaction was removed from heating, cooled 5 minutes, and then poured into a mixture of ice, 0.5 L EtOAc, and 0.25 L 1 N HCl. The layers were separated and the organic layer was washed with water and brine, and dried over Na2SO4. The residue was purified by silica gel flash chromatography (DCM to 1:1 DCM/EtOAc) to provide 8.2 g of partially purified solid which was then purified by silica gel column (1:1 DCM:hex to DCM). 1H NMR (400 MHz, CDCl3): 7.54 (d, 1H), 7.46 (d, 1H), 7.36 (t, 1H), 7.18-7.28 (m, 3H), 6.95-7.06 (m, 4H) 5.16 (m, 1H), 5.04 (s, 2H), 4.42 (m, 1H), 4.02 (m, 1H).

reactant | 3-{(S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2-hydroxy-ethoxy}-4-fluoro-benzonitrile | 13.0 g | ClC=1C=C(COC=2C=C(C=CC2)[C@@H](COC=2C=C(C#N)C=CC2F)O)C=CC1Cl | C22H16Cl2FNO3
reactant | sodium hydride | 1.2 g | [H-].[Na+]
solvent | NMP diglyme | 130 mL | CN1CCCC1=O.COCCOCCOC
solvent | NMP diglyme | 26 mL | CN1CCCC1=O.COCCOCCOC
product | (S)-2-[3-(3,4-Dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxine-6-carbonitrile | ClC=1C=C(COC=2C=C(C=CC2)[C@H]2COC3=C(O2)C=CC(=C3)C#N)C=CC1Cl | C22H15Cl2NO3
